US08431575B2
A suspension of 6-cyclobutyl-5-(4-cyclohexyloxy-phenyl)-2H-pyridazin-3-one (0.74 mmol, 0.24 g) in phosphorous oxychloride (7.41 mmol, 0.68 mL) was heated at 80° C. for 20 minutes. The reaction mixture was cooled to room temperature and the volatiles were removed under reduced pressure. The residue was partitioned between ethyl acetate (5 mL) and saturated NaHCO3. The layers were separated and the organic layer was washed with saturated NaHCO3 (5 mL), brine (5 mL) and dried (Na2SO4). The residue was purified on a 12 g SiO2 cartridge eluting with an ethyl acetate/hexanes gradient to give 6-chloro-3-cyclobutyl-4-(4-cyclohexyloxy-phenyl)-pyridazine (0.15 g).

reactant | 6-cyclobutyl-5-(4-cyclohexyloxy-phenyl)-2H-pyridazin-3-one | 0.74 mmol, 0.24 g | C1(CCC1)C=1C(=CC(NN1)=O)C1=CC=C(C=C1)OC1CCCCC1 | C20H24N2O2
reactant | phosphorous oxychloride | 7.41 mmol, 0.68 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-chloro-3-cyclobutyl-4-(4-cyclohexyloxy-phenyl)-pyridazine | 0.15 g | ClC1=CC(=C(N=N1)C1CCC1)C1=CC=C(C=C1)OC1CCCCC1 | C20H23ClN2O
